Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Keflex / Sulfa (Sulfonamide Antibiotics) / Valtrex
 
Attending: ___.
 
Chief Complaint:
Aggressive Behavior
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M with PMH of BPD, PTSD, ADD, and disruptive behavior 
disorder who initially presented on ___ with disruptive, 
aggressive, and threatening behavior. He is now medically clear 
with BEST bed search in progress. He is being admitted to 
Medicine as he has been in the ED for 3 days.  

For full details regarding initial presentation, please see the 
Psychiatry consult note dated ___. Briefly, patient has 
been residing at the ___ in ___ since 
___. Reportedly, patient and a friend barricaded themselves 
in a bathroom on ___, jumped out of a first floor window, and 
then behaved aggressively toward police officers. It took six 
police officers to subdue patient. With jump from window, 
patient denies any head strike or injury. He was brought to the 
___ ED.  

In the ED, initial vital signs were 98.5, 60, 136/68, 17, 98% 
RA. Labs were remarkable for WBC 10.1 and Na 146. Toxicology 
negative. Otherwise unremarkable. No imaging was obtained. 
Patient was seen by Psychiatry. Initially, he was refusing 
treatment. Shortly after this, he became more calm and 
cooperative and was apologetic for his bizarre behavior. 
Psychiatry recommended ___, 1:1 sitter, BEST search, and 
the following outpatient medications:  
 - Risperidone 1.5 mg PO QAM  
 - Risperidone 0.5 mg PO 14:00  
 - Risperidone 1.0 PO QHS  
 - Melatonin 3 mg PO QHS  
 - Trazodone 50 mg PO QHS  
 - Hydroxyzone 50 mg PO BID PRN  

While in ED, patient received multiple doses of above 
medications. Since initial psychiatric evaluation, patient has 
remained calm and cooperative with ED staff. He is currently 
medically clear, and is now being admitted to Medicine as the 
BEST bed search remains active after 3 days.  

On transfer, vital signs were 98.0, 92, 144/77, 18, 100% RA.  

On interview, patient reports that he is feeling well with no 
physical complaints at this time. Patient reports that he was 
manic earlier today, but that these symptoms have resolved. He 
denies SI/HI, and is anxiously awaiting bed placement. 
 
Past Medical History:
Bipolar disorder  
PTSD  
ADHD  
Disruptive behavior disorder  
 
Social History:
___
Family History:
Mother (___) has a history of alcohol abuse and was 
actively drinking when patient was growing up, now recovering 
Father (___) is currently in jail, has no contact with 
patient
Sister has bipolar disorder

 
Physical Exam:
>> ADMISSION PHYSICAL EXAM:
VITALS: 98.1, 77, 130/71, 18, 99% RA  
GENERAL: Well-appearing, calm, and large young male in no 
distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: Supple, JVP not elevated, no LAD  
CARDIAC: RRR, nl S1/S2, no MRG  
PULMONARY: CTAB, no wheezes/rales/rhonchi  
ABDOMEN: Soft, NTND, normoactive bowel sounds  
EXTREMITIES: Warm, well-perfused, no cyanosis/clubbing/edema  
NEUROLOGIC: AAOx3, CN II-XII grossly intact  
PSYCH: Calm and cooperative with interview  

>> DISCHARGE PHYSICAL EXAM: 
Vitals: T 98.1, BP 123/59, HR 66, RR 18, SpO2 99% RA 
General: Alert, oriented, lying in bed in NAD. Irritable and not 
cooperative with interview.
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, no LAD  
Lungs: CTAB, no wheezes, rales, ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, obese, non-tender, no rebound tenderness or 
guarding, no organomegaly  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: Motor function grossly normal  
 
Pertinent Results:
>> ADMISSION LABS: 
___ 01:38PM BLOOD WBC-10.1* RBC-4.60 Hgb-13.7 Hct-40.6 
MCV-88 MCH-29.8 MCHC-33.7 RDW-12.5 RDWSD-40.1 Plt ___
___ 01:38PM BLOOD Neuts-64.8 ___ Monos-6.8 Eos-0.5* 
Baso-0.1 Im ___ AbsNeut-6.53 AbsLymp-2.76 AbsMono-0.69 
AbsEos-0.05 AbsBaso-0.01
___ 01:38PM BLOOD Glucose-91 UreaN-14 Creat-0.7 Na-146* 
K-4.0 Cl-114* HCO3-24 AnGap-12
___ 01:38PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:26PM URINE Color-Straw Appear-Clear Sp ___
___ 01:26PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 01:26PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

>> INTERVAL LABS:

>> DISCHARGE LABS:

 
Brief Hospital Course:
Mr. ___ is a ___ year old male, with prior history of Bipolar 
Disorder, Disruptive Behavior Disorder, Post-traumatic stress 
disorder, and attention deficit disorder combined time, with 
prior ED visits for disruptive behavior, who presents with 
disruptive behavior. 
. 
>> ACTIVE ISSUES: 
# Aggressive Behavior: Patient with notable history, who now 
presents with worsening behavior symptoms. Unclear specific 
trigger for several months of escalating behavior, and 
collateral obtained from ___. Patient was evaluated in 
the ___ ED with unremarkable testing, and therefore medically 
cleared. Patient was then evaluated by the psychiatry team in 
the ED, and given concern for worsening danger to himself and 
others, patient was placed on a ___ with a sitter. 
Patient was then continued to be monitored, and was given 
several doses of his home medications. Patient initially then 
had somewhat stability of his aggressive behavior. BEST Team 
contacted to help with search for inpatient psychiatric unit 
given behavior decline. Patient then was admitted to the 
hospital, continued on 1:1 sit with ___, and was placed 
on his home psychiatric medications. Patient medically stable 
for discharge to an inpatient psychiatric facility given the 
aforementioned work-up. In coordination with psychiatry 
department and also outpatient facility, patient signed contract 
regarding relinquishing of his cell phone and independent 
transition in order to return to facility, and patient signed 
this. Patient therefore was discharged back to ___ with 
his ___ sitter in transit. 
. 
>> TRANSITIONAL ISSUES: 
# Outpatient Psychiatric Regimen: 
 - Risperidone 1.5 mg PO QAM  
 - Risperidone 0.5 mg PO 14:00  
 - Risperidone 1.0 PO QHS  
 - Melatonin 3 mg PO QHS  
 - Trazodone 50 mg PO QHS  
 - Hydroxyzone 50 mg PO BID PRN  
# Contract: Patient to sign contract regarding loss of cell 
phone privilege and loss of independent transition. 
# CONTACT: ___ at ___  
# CODE STATUS: Full  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RisperiDONE 1.5 mg PO QAM 
2. RisperiDONE 0.5 mg PO QPM 
3. RisperiDONE 1 mg PO QHS 
4. melatonin 3 mg oral QHS 
5. TraZODone 50 mg PO QHS 
6. HydrOXYzine 50 mg PO BID:PRN anxiety 

 
Discharge Medications:
1. HydrOXYzine 50 mg PO BID:PRN anxiety 
2. RisperiDONE 1.5 mg PO QAM 
3. RisperiDONE 0.5 mg PO QPM 
4. RisperiDONE 1 mg PO QHS 
5. TraZODone 50 mg PO QHS 
6. melatonin 3 mg oral QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 1. Disruptive Behavior Disorder  2. Bipolar 
Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were hospitalized 
here after having a change in your behavior. We performed some 
blood tests here which were normal, and therefore you were 
monitored by the psychiatry team here as well. 

Please continue to take your home medications as prescribed. 
Please follow up with your specialists upon discharge. 

Take Care,
Your ___ Team. 
 
Followup Instructions:
___